US05910498
1-(3-amino-4,6-difluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
To 0.6 g of ethyl 1-(3-amino-4,6-difluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate was added 4 ml of a 3N hydrochloric acid/acetic acid mixture. The solution was heated at reflux for 2 hours. Distilled water (3 ml) was added to the solution, which was refluxed for 5 minutes. The precipitate was collected by filtration and washed with ethanol to give 0.54 g of the title compound.

reactant | ethyl 1-(3-amino-4,6-difluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 0.6 g | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)OCC | C17H11ClF3N3O3
reactant | hydrochloric acid acetic acid | 3N | Cl.C(C)(=O)O
solvent | water | 3 ml | O | H2O
product | 1-(3-amino-4,6-difluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.54 g | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C15H7ClF3N3O3
